US07842685B2
A mixture of 2-(4-(1,3-dioxan-2-yl)-3,5-dimethylphenyl)-5-(1-phenyl-cyclopropyl)thiazolo[5,4-b]pyridine (96.0 mg, 217 μmol) and hydrochloric acid (5.0M, aq; 1.5 mL, 7500 μmol) in THF (3.0 mL) was heated at 60° C. in a sealed flask under argon. After 2 h, the reaction mixture was allowed to cool to 25° C. The resulting mixture was diluted with EtOAc (50 mL) and water (20 mL), neutralized with 5.0N NaOH (1.5 mL), and saturated aqueous sodium bicarbonate (10 mL) was added. The organic layer was then separated, sequentially washed with water (20 mL) and brine (15 mL), dried over sodium sulfate, filtered, and concentrated in vacuo to provide 2,6-dimethyl-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]-pyridine-2-yl)benzaldehyde as a yellow-orange solid. MS (ESI) m/z: Calculated: 384.1; Observed: 385.1 (M++1).

reactant | 2-(4-(1,3-dioxan-2-yl)-3,5-dimethylphenyl)-5-(1-phenyl-cyclopropyl)thiazolo[5,4-b]pyridine | 217 μmol, 96.0 mg | O1C(OCCC1)C1=C(C=C(C=C1C)C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)C | C27H26N2O2S
reactant | hydrochloric acid | 7500 μmol, 5.0M, 1.5 mL | Cl | ClH
reactant | NaOH | 5.0N, 1.5 mL | [OH-].[Na+]
reactant | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | water | 20 mL | O | H2O
product | 2,6-dimethyl-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]-pyridine-2-yl)benzaldehyde | CC1=C(C=O)C(=CC(=C1)C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)C | C24H20N2OS
